2128-11-29 22:57:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74M admitted yesterday with worsening SOB. Over the course of [**2127**], his
   dyspnea and O2 needs have worsened. He has been on prednisone since
   [**4-3**] which was increased when he became acutely ill in [**Month (only) 2139**]. He
   feels he did have a response both in [**Month (only) 51**] and [**Month (only) 2139**]. His steroids
   have been weaned over the past month and with this his dyspnea and
   oxygenation have declined.
   Over past 2 weeks, his SOB has worsened more acutely and he was
   admitted 2 days ago. He has required wither 50% FM or BiPAP. His CXR
   was interpreted as showing a new pnemonia. He was covered with levoflox
   and given solumedrol.
                       History obtained from housestaff
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   IPF on O2 since beginning of [**2127**], diagnosed 3 years ago
   COPD
   cement dust exposure [**2124**], ? remote asbestos exposure
   CAD stent '[**25**]
   AAA endograft repair [**2124**]
   HTN
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Weight loss
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2128-11-29**] 10:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 79 (79 - 84) bpm
   BP: 144/78(94) {136/78(93) - 144/78(94)} mmHg
   RR: 38 (22 - 38) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather, Bipap mask
   PS : 8 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   SpO2: 93%
   ABG: ///23/
   Ve: 16.3 L/min
   Physical Examination
   General Appearance: mild respiratory distress at rest
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Crackles bilaterally
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   445 K/uL
   130 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.2 mEq/L
   25 mg/dL
   104 mEq/L
   139 mEq/L
   30.2 %
   24.5 K/uL
        [image002.jpg]
                             [**2128-11-29**]  08:29 PM
   WBC
   24.5
   Hct
   30.2
   Plt
   445
   Cr
   1.1
   Glucose
   130
   Other labs: Differential-Neuts:95.7 %, Lymph:2.3 %, Mono:1.9 %, Eos:0.0
   %, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: LDH 552
   Imaging: CT [**3-1**] c/w UIP
   CXR [**2128-11-28**] - unable to view
   Microbiology: urine legionella neg
   sputum and blood negative
   ECG: NSR, no ischemia
   Assessment and Plan
   Resp distress / hypoxemia / IPF - persistent hypoxemia with possible
   new infiltrates, possibilities include IPF flare versus pna versus CHF
 favor IPF flare. Will complete micro eval and continue steroids and
   antibiotics. Will obtain a CT-A.
   CAD - continue outpatient regimen
   ICU Care
   Nutrition: can take POs
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-11-29**] 08:27 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 39 minutes
   Patient is critically ill

2128-11-30 08:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continued need for NRB, easily desaturates when off mask
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2128-11-30**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-11-30**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 78 (67 - 91) bpm
   BP: 132/75(91) {120/70(82) - 144/86(99)} mmHg
   RR: 24 (18 - 38) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.2 kg (admission): 68.2 kg
   Height: 69 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    200 mL
                                                                    250 mL
   Urine:
                                                                    200 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 706 (706 - 706) mL
   PS : 8 cmH2O
   RR (Spontaneous): 35
   PEEP: 8 cmH2O
   FiO2: 100%
   SpO2: 90%
   ABG: ///23/
   Ve: 16.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   396 K/uL
   9.7 g/dL
   135 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.5 mEq/L
   26 mg/dL
   105 mEq/L
   138 mEq/L
   29.2 %
   25.6 K/uL
        [image002.jpg]
                             [**2128-11-29**]  08:29 PM
                             [**2128-11-30**]  04:54 AM
   WBC
   24.5
   25.6
   Hct
   30.2
   29.2
   Plt
   445
   396
   Cr
   1.1
   1.1
   Glucose
   130
   135
   Other labs: Differential-Neuts:95.7 %, Lymph:2.3 %, Mono:1.9 %, Eos:0.0
   %, LDH:552 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   The patient is a 74 year old male with a history of IPF, COPD, tobacco
   use who presents with hypoxia, tranfered for further. mangement.
    .
   # Hypoxia:  Differential includes acute on chronic progression of his
   reported IPF versus COPD exacerbation vs. superimposed pneumonia on his
   underlying chronic lung disease.  Patient still with pronounced oxygen
   requirement, with desaturations with mild movements.  Physical exam not
   consistent with COPD exacerbation, and nothing in history or exam
   suggest CHF exacerbation.  He may very well have a bacertial processes,
   and is currently on day 2 of levofloxacin.  Does describes low grade
   tempertatures, weight loss, and night sweats, and given chronic steroid
   use, would also consider PCP or less likely TB (no real risk factors.)
   -- will attempt to aquire OSH CT and PFTs, but will likely need to
   repeat here
   -- will continue levofloxacin and solumedrol for now but at higher dose
   of 0.5g daily (125mg q6h)
   -- patient with high O2 requirment and likely would not tolerate
   bronchoscopy, but will discuss with team.
   -- will check LDH
   -- DFA for flu and resend sputum Cx (for PCP as well)
   -- Given increased thrombogenicity, will discuss potential CTA to r/o
   PE.
   -- could potentially consider anticoagulation of mucomyst therapy in
   long term, but once current O2 requirements are addressed.
   -- albuterol nebs, standing atrovent, home advair
   -- morphine and ativan PRN air hunger.
   .
   # CAD:  History of unstable angina, s/p stent in [**2125**].
   - cont ASA
   - cont atenolol
   - cont plavix and statin
   .
   # Hyperglycemia: will put on insulin sc while on high dose steroids.
 DYSPNEA (SHORTNESS OF BREATH)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-11-29**] 08:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2128-11-30 09:37:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   -desats with any activity
   -cont to require mask ventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2128-11-30**] 08:09 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-11-30**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 78 (67 - 91) bpm
   BP: 132/75(91) {120/70(82) - 144/86(99)} mmHg
   RR: 24 (18 - 38) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.2 kg (admission): 68.2 kg
   Height: 69 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    200 mL
                                                                    250 mL
   Urine:
                                                                    200 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 706 (706 - 706) mL
   PS : 8 cmH2O
   RR (Spontaneous): 35
   PEEP: 8 cmH2O
   FiO2: 100%
   SpO2: 90%
   ABG: ///23/
   Ve: 16.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, mask ventiation
   Cardiovascular: (S1: Normal), (S2: Normal, Loud)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : ), squeaks
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   396 K/uL
   135 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.5 mEq/L
   26 mg/dL
   105 mEq/L
   138 mEq/L
   29.2 %
   25.6 K/uL
        [image002.jpg]
                             [**2128-11-29**]  08:29 PM
                             [**2128-11-30**]  04:54 AM
   WBC
   24.5
   25.6
   Hct
   30.2
   29.2
   Plt
   445
   396
   Cr
   1.1
   1.1
   Glucose
   130
   135
   Other labs: Differential-Neuts:95.7 %, Lymph:2.3 %, Mono:1.9 %, Eos:0.0
   %, LDH:552 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   74M h/o asthma, COPD, IPF, COPD transferred with acute on chronic
   respiratory failure for further evaluation
 Acute on chronic resp failure
   -cont to require mask ventilation with brief periods of rest
   -cont with significant FiO2 requirement
   -sig dyspnea with any form of activity (eg. writing messages)
   -Acute worsening of IPF vs. infectious vs. CHF.  Suspect is IPF
   worsening but need to evaluate and empirically treat alternate
   etiologies given paucity of effective therapies for IPF
   -Obtain CT-A chest to better evaluate parenchyma and to see whether
   focality c/w typical bacterial PNAs and r/o PE
   -Send micro inc SCx, influenza
   -empiric abx for now vs. HAP (has had some hosp exposure and minimal
   margin of errror), bactrim iv for PCP [**Name Initial (PRE) 10504**] (given on steroids with
   recent taper) until able to exclude infectious agents and narrow
   regimen.
   -less going for CHF but follow balance closely especially while on IV
   Bactrim given large fluid load
   -given low grade tempertatures, weight loss, and night sweats
   -Check with PCP regarding whether PPD placed.
 IPF
   -Followed by Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **], [**Hospital1 **].  Dx via CT imaging and presentation
   c/w IPF,
   -Dr. [**First Name4 (NamePattern1) 453**] [**Last Name (NamePattern1) **] saw pt last night
 felt most c/w IPF flare.  D/w
   Dr. [**Last Name (STitle) 2**] role, if any, for steroid pulse, imuran, NAC.
COPD
   - cont nebs
 CAD:
   - Stent in [**2125**].
   - cont ASA, atenolol, cont plavix and statin
   For remainder of plan, please see resident notes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-11-29**] 08:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: 55 minutes
   Patient is critically ill

2128-12-01 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**Doctor First Name **] tracked down his OSH records: neg PPD, sputum AFB, and flu
   tests in [**September 2128**].
   - VBG in a.m.: 7.35/45/62
   - CT: diffuse bilateral infiltrates, neg for PE
   - started bactrim, broadened antibx
   - was on NRB for most of morning and afternoon doing well; then tiring
   and back on cpap for most of the day with worsening hypoxia.
   - gave lasix 20 iv x 1 empirically -> 200 cc UOP but no improvement
   - increasing o2 requirement overnight, was concerned that he would
   decompensate as was tiring with bipap on
   - ativan for anxiety
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2128-11-30**] 09:59 AM
   Vancomycin - [**2128-11-30**] 08:00 PM
   Bactrim (SMX/TMP) - [**2128-12-1**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-11-30**] 05:26 PM
   Furosemide (Lasix) - [**2128-12-1**] 02:00 AM
   Morphine Sulfate - [**2128-12-1**] 04:00 AM
   Lorazepam (Ativan) - [**2128-12-1**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-12-1**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 81 (61 - 92) bpm
   BP: 115/66(78) {111/66(78) - 157/92(103)} mmHg
   RR: 13 (12 - 38) insp/min
   SpO2: 82%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.2 kg (admission): 68.2 kg
   Height: 69 Inch
             Total In:
                                                                  1,640 mL
                                                                    573 mL
   PO:
             TF:
   IVF:
                                                                  1,640 mL
                                                                    573 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    810 mL
   Urine:
                                                                  1,625 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     15 mL
                                                                   -237 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 997 (639 - 1,463) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 90%
   PIP: 18 cmH2O
   SpO2: 82%
   ABG: ///25/
   Ve: 17.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   408 K/uL
   10.2 g/dL
   115 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   22 mg/dL
   99 mEq/L
   135 mEq/L
   30.5 %
   25.0 K/uL
        [image002.jpg]
                             [**2128-11-29**]  08:29 PM
                             [**2128-11-30**]  04:54 AM
                             [**2128-12-1**]  03:06 AM
   WBC
   24.5`
   25.6
   25.0
   Hct
   30.2
   29.2
   30.5
   Plt
   445
   396
   408
   Cr
   1.1
   1.1
   1.1
   Glucose
   130
   135
   115
   Other labs: Differential-Neuts:95.7 %, Lymph:2.3 %, Mono:1.9 %, Eos:0.0
   %, Lactic Acid:1.4 mmol/L, LDH:552 IU/L, Ca++:8.7 mg/dL, Mg++:2.2
   mg/dL, PO4:3.6 mg/dL
   Microbiology: Respiratory Viral Antigen Screen (Final [**2128-11-30**]):
         Negative for Respiratory Viral Antigen.
         Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A,
   B,
         and RSV by immunofluorescence.
         Refer to respiratory viral culture for further information.
   F/U PENDING CTA READ
   Assessment and Plan
   The patient is a 74 year old male with a history of IPF, COPD, tobacco
   use who presents with hypoxia, transferred for further. management.
    .
   # Hypoxia:  Differential includes acute flare of chronic progression of
   his IPF versus COPD exacerbation vs. superimposed infectious process on
   his underlying chronic lung disease.  Patient still with pronounced
   oxygen requirement, with desaturations with mild movements.  Physical
   exam not consistent with COPD exacerbation, and nothing in history or
   exam suggest CHF exacerbation.  Does describes low grade tempertatures,
   weight loss, and night sweats, and given chronic steroid use, would
   also consider PCP or less likely TB (no real risk factors.)
   -- CT w/ marked progression of IPF since [**2124**], no PEs, and diffuse
   ground glass opacities, awaiting final read
   -- will continue levofloxacin and solumedrol; start vanco and cefepime
   for broader coverage
   -- DFA negative for viral infections
   -- d/w outpatient pulmonologist re mucomyst and anticoagulation
   -- albuterol nebs, standing atrovent, home advair
   -- morphine and ativan PRN air hunger.
   -- cont bactrim for empiric rx of PCP, f/u b-glucan
   -- cont levo for atypical coverage, and broad spectrum vanc/cefepine
   for HAP (if CT read does not read out obvious pna, will consider
   narrowing coverage.) Pt cannot tolerate induced sputum [**12-28**] hypoxia.
   -- if continues to not show clinical improvement, will need to address
   goals of care.
   .
   # CAD:  History of unstable angina, s/p stent in [**2125**].
   - cont ASA
   - cont atenolol
   - cont plavix and statin
   .
   # Hyperglycemia: will put on insulin sc while on high dose steroids.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-11-29**] 08:27 PM
   22 Gauge - [**2128-11-30**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2128-12-01 11:29:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   -Records obtained from Dr. [**First Name (STitle) **]/OSH
   -continued to tire with minimal activity
   -Tolerating less and less time off of BiPAP - requiring it now almost
   exclusively
               -Couldn't tolerate even brief period off it to take PO meds
   -Family remains closely involved and supportive
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2128-11-30**] 09:59 AM
   Bactrim (SMX/TMP) - [**2128-12-1**] 04:00 AM
   Vancomycin - [**2128-12-1**] 08:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-11-30**] 05:26 PM
   Furosemide (Lasix) - [**2128-12-1**] 02:00 AM
   Lorazepam (Ativan) - [**2128-12-1**] 04:00 AM
   Morphine Sulfate - [**2128-12-1**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-12-1**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.5
   HR: 78 (61 - 92) bpm
   BP: 120/71(83) {109/66(78) - 149/92(103)} mmHg
   RR: 17 (12 - 38) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.2 kg (admission): 68.2 kg
   Height: 69 Inch
             Total In:
                                                                  1,640 mL
                                                                    811 mL
   PO:
             TF:
   IVF:
                                                                  1,640 mL
                                                                    811 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    970 mL
   Urine:
                                                                  1,625 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     15 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,142 (639 - 1,463) mL
   PS : 8 cmH2O
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 93%
   PIP: 18 cmH2O
   SpO2: 93%
   ABG: ///25/
   Ve: 11.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, mask
   ventilation
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : insp/exp)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   408 K/uL
   115 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   22 mg/dL
   99 mEq/L
   135 mEq/L
   30.5 %
   25.0 K/uL
        [image002.jpg]
                             [**2128-11-29**]  08:29 PM
                             [**2128-11-30**]  04:54 AM
                             [**2128-12-1**]  03:06 AM
   WBC
   24.5
   25.6
   25.0
   Hct
   30.2
   29.2
   30.5
   Plt
   445
   396
   408
   Cr
   1.1
   1.1
   1.1
   Glucose
   130
   135
   115
   Other labs: Differential-Neuts:95.7 %, Lymph:2.3 %, Mono:1.9 %, Eos:0.0
   %, Lactic Acid:1.4 mmol/L, LDH:552 IU/L, Ca++:8.7 mg/dL, Mg++:2.2
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   74M h/o asthma, COPD, IPF, transferred with acute on chronic
   respiratory failure for further evaluation

 Acute on chronic resp failure
   -Presumed due to IPF flare
   -cont to require mask ventilation with decreasing tolerance of periods
   off
   -cont with maxed FiO2 requirement with borderline sats
   -sig dyspnea with any form of activity (eg. writing messages)
   -Treating for potential alternate reversible etiologies given paucity
   of effective therapies for IPF
   -empiric abx vs. HAP and PCP (given on steroids with recent taper)
   until able to exclude infectious agents and narrow regimen.
   -less going for CHF but follow balance closely especially while on IV
   Bactrim given large fluid load
   -had negative PPD at PCP per report

 IPF
   -Followed by Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **], [**Hospital1 **].  Dx via CT imaging and presentation
   c/w IPF,
   -Dr. [**First Name4 (NamePattern1) 453**] [**Last Name (NamePattern1) **] saw pt last night
 felt most c/w IPF flare and
   nothing to offer in terms of alternate therapies for IPF including
   trial enrollment or compassionate use
COPD
   - cont nebs
 CAD:
   - Stent in [**2125**].
   - cont ASA, atenolol, cont plavix and statin
Above communicated with family.  They are contemplating taking pt home
   on hospice as he would like to pass away at home.  They understand
   there is a significant chance of patient passing away en route or
   shortly after arrival.  Given his tenuous saturation on maximal FiO2 he
   could rapidly decompensate
   For remainder of plan, please see resident notes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-11-29**] 08:27 PM
   22 Gauge - [**2128-11-30**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: 65 minutes
   Patient is critically ill.